US05075330
2-[(2,6-Dichloro-3-methylphenyl)amino]-N-hydroxy-α-methylbenzenemethanamine (1.2 g, 3.8 mmol) is reacted with acetyl chloride (0.66 g, 8.5 mmol), triethylamine (1.2 g, 11.6 mmol), and lithium hydroxide (0.46 g, 19.3 mmol) according to the procedure of Example 48 to give N-[1-[2-[(2,6-dichloro-3-methylphenyl) amino]phenyl]ethyl]-N-hydroxyacetamide (0.6 g, 45% yield); mp 185°-187° C.

reactant | 2-[(2,6-Dichloro-3-methylphenyl)amino]-N-hydroxy-α-methylbenzenemethanamine | 3.8 mmol, 1.2 g | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C(NO)C | C15H16Cl2N2O
reactant | acetyl chloride | 8.5 mmol, 0.66 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 11.6 mmol, 1.2 g | C(C)N(CC)CC | C6H15N
reactant | lithium hydroxide | 19.3 mmol, 0.46 g | [OH-].[Li+]
product | N-[1-[2-[(2,6-dichloro-3-methylphenyl) amino]phenyl]ethyl]-N-hydroxyacetamide | 0.6 g, 45% yield | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C(C)N(C(C)=O)O | C17H18Cl2N2O2
